US09107898B2
(E)-Desmethyldoxepin is prepared from doxepin hydrochloride as follows. Doxepin hydrochloride (E/Z=85/15) (55.0 g, 0.174 mol) is dissolved in 600 mL H2O, made basic with 6M NaOH, and extracted with CHCl3 (3×600 mL). The CHCl3 extracts are combined, dried over Na2SO4, and solvent removed in vacuo. The resulting oil is dissolved in 250 mL EtOH, then 21.15 g (0.182 mol) of maleic acid dissolved in 100 mL EtOH is added slowly, with stirring, followed by an additional 350 mL EtOH. The resulting cloudy solution is refluxed until it becomes clear, then allowed to stand overnight at room temperature; the resulting crystals are isolated by vacuum filtration. Additional recrystallization from EtOH yields a white crystalline product ((E)-Doxepin maleate) with an E/Z ratio of 98/2. (E)-Doxepin maleate (2.50 g, 6.32 mmol) is then partially dissolved in 60 mL H2O, made basic with 6M NaOH, and extracted with CHCl3 (3×60 mL). The CHCl3 extracts are combined, washed with 60 mL brine, dried over Na2SO4, and solvent removed in vacuo. The resulting oil is re-dissolved in 10 mL CHCl3, 1.8 mL (13 mmol) of triethylamine added, 1.8 mL (13 mmol) of 2,2,2-trichloroethylchloro-formate added, and reaction stirred under N2 for 3.5 hours. The completed reaction is then diluted with 140 mL Et2O, washed successively with 0.5M HCl (2×140 mL), H2O (140 mL), and brine (140 mL), then dried over MgO4 and solvent removed in vacuo. Resulting material is further purified by silica gel column chromatography, eluting with EtOAc/Hex (20/80), to afford 1.48 g (3.36 mmol) of the desired product as a clear oil. The N-protected (E)-desmethyldoxepin intermediate (1.44 g, 3.27 mmol) is then dissolved in 12 mL THF, 2.88 g of zinc powder added, 2.3 mL of 1M sodium phosphate (pH=5.5) added, and reaction stirred for 17 hours. The reaction mixture is then vacuum filtered, filtrate solvent removed in vacuo, and resulting residue purified by silica gel column chromatography, eluting with THF/MeOH/NH4OH (85/15/0.4), then THF/MeOH/NH4OH (75/25/0.4), to afford 744 mg (2.80 mmol) of the desired product as a pale yellow solid.

reactant | doxepin hydrochloride | CN(C)CCC=C1C=2C=CC=CC2COC3=C1C=CC=C3.Cl
reactant | Doxepin hydrochloride | 0.174 mol, 55.0 g | CN(C)CCC=C1C=2C=CC=CC2COC3=C1C=CC=C3.Cl
reactant | NaOH | 6M | [OH-].[Na+]
reactant | maleic acid | 0.182 mol, 21.15 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | H2O | 600 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOH | 350 mL | CCO | C2H6O
product | (E)-Desmethyldoxepin | CNCC/C=C/1\C2=CC=CC=C2COC3=CC=CC=C31 | C18H19NO
